US07648997B2
A solution of 2-(2-aminoethoxy)ethanol (30.3 g, 288 mmol) in a minimal amount of dichloromethane was added dropwise to a stirred mixture of 4-chloro-3-nitroquinoline (50.0 g, 240 mmol), potassium carbonate (33.1 g, 240 mmol), and triethylamine (36.4 g mL, 360 mmol) in DMF (200 mL) at 0° C. A yellow precipitate formed and more dichloromethane (several mL) was added. The mixture was allowed to warm to room temperature and stir overnight. A yellow solid was isolated by filtration, washed with water and dichloromethane, and dried. The filtrate was washed twice with brine, dried over magnesium sulfate, and filtered. Additional orange solid was isolated from the filtrate after concentration under reduced pressure. The solids were dried in a vacuum oven to afford 2-{2-[(3-nitroquinolin-4-yl)amino]ethoxy}ethanol.

reactant | 2-(2-aminoethoxy)ethanol | 288 mmol, 30.3 g | NCCOCCO | C4H11NO2
reactant | 4-chloro-3-nitroquinoline | 240 mmol, 50.0 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | potassium carbonate | 240 mmol, 33.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 360 mmol, 36.4 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-{2-[(3-nitroquinolin-4-yl)amino]ethoxy}ethanol | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCOCCO | C13H15N3O4
